US05721359
A slurry of 75.12 g of ceftiofur hydrochloride in 375 ml of tetrahydrofuran and 37.5 ml of water is stirred at room temperature for 1 hour. To this slurry is added 37.5 g of polyvinylpyridine resin and 225 ml of tetrahydrofuran. The resulting mixture is stirred at room temperature for 30 minutes and then filtered. The resin is washed with 150 ml of tetrahydrofuran. The filtrate is heated to >45° C. and diluted with 1075 ml of 50° C. water. To this cloudy solution is added 2.25 g of crystalline ceftiofur free acid and the resulting mixture is stirred for about 10 minutes. This slurry is then diluted further by the slow addition of 905 ml of water while maintaining the temperature at >45° C. The resulting slurry is stirred at 50°-55° C. for thirty (30) minutes to one (1) hour and is gradually cooled to 19° C. and filtered. The solids are washed with water and dried with nitrogen to give about 65 g of crystalline ceftiofur free acid (which is approximately 94.5% crystalline).

reactant | ceftiofur hydrochloride | 75.12 g | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O.Cl
solvent | tetrahydrofuran | 375 ml | O1CCCC1 | C4H8O
solvent | water | 37.5 ml | O | H2O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | ceftiofur | about 65 g, approximately 94.5% | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O | C19H17N5O7S3
